US05660598
N-n-heptyl-N-(1-methylpropyl)aniline was prepared from N-(1-methylpropyl)aniline and 1-n-heptylbromide using the same method as in Example 2ii).

reactant | N-(1-methylpropyl)aniline | CC(CC)NC1=CC=CC=C1 | C10H15N
reactant | 1-n-heptylbromide | C(CCCCCC)Br | C7H15Br
product | N-n-heptyl-N-(1-methylpropyl)aniline | C(CCCCCC)N(C1=CC=CC=C1)C(CC)C | C17H29N
